US06133273
5-Amino-3-butyl-6-methyl-1-(3-methyl-butyl)-1H-pyrimidine-2,4-dione
The title compound was prepared according to the procedure of example 18, step 3 except that 3-butyl-6-methyl-1-(3-methyl-butyl)-5-nitro-1H-pyrimidine-2,4-dione was used in place of 1-butyl-3,6-dimethyl-5-nitro-1H-pyrimidine-2,4-dione. Yield: 100%; mp: 68-70° C.; 1H NMR (300 MHz, CDCl3); δ 0.91-0.98 (m, 6H), 1.25 (s, 3H), 1.32-1.40 (m, 2H), 1.48-1.80 (m, 5H), 2.15 (s, 3H), 3.21 (m, 2H) 3.67-3.83 (m, 2H), 3.88-3.96 (m, 2H); IR (KBr, cm-1): 3435w, 3414w, 2959w, 2930w, 2869m, 1683s, 1644s, 1589m,1488m, 1359m; MS (ES) m/z (relative intensity): 268 (M+ +H). Anal. Calcd. for C14H25N3O2 : C, 62.89; H, 9.42, N, 15.72. Found: C, 62.76; H, 9.23; N, 15.59.

reactant | 3-butyl-6-methyl-1-(3-methyl-butyl)-5-nitro-1H-pyrimidine-2,4-dione | C(CCC)N1C(N(C(=C(C1=O)[N+](=O)[O-])C)CCC(C)C)=O | C14H23N3O4
reactant | KBr | [K+].[Br-]
product | 5-Amino-3-butyl-6-methyl-1-(3-methyl-butyl)-1H-pyrimidine-2,4-dione | Yield: 100% | NC=1C(N(C(N(C1C)CCC(C)C)=O)CCCC)=O | C14H25N3O2
